US07943776B2
N-cyclopropyl-4-methlyl-3-({4-[(3-methylpyridin-2-yl)methoxy]benzoyl}amino)benzamide
To (3-methylpyridine-2-yl)methanol (157 mg, 1.272 mmol) in DCM (5 mL) was added thionyl chloride (200 μl) and the mixture stirred and heated at reflux for 4 h. The mixture was evaporated to dryness. To the residue was added N-cyclopropyl-3-[(4-hydroxybenzoyl)amino]-4-methylbenzamide (197 mg, 0.636 mmol) and potassium carbonate (176 mg, 1.27 mmol) in acetonitrile (5 mL) and the resulting mixture heated at 80° C. for 16 h. The reaction mixture was cooled and partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organic phase was concentrated under reduced pressure. Precipitation with DCM in diethyl ether gave the title compound as a solid (270 mg); NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.68 (m, 2H), 2.26 (s, 3H), 2.40 (s, 3H), 2.86 (m, 1H), 5.30 (s, 2H), 7.17 (d, 2H), 7.33 (m, 2H), 7.65 (m, 2H), 7.82 (s, 1H), 7.97 (d, 2H), 8.39 (m, 2H), 9.81 (s, 1H); Mass Spectrum: M+H+ 416.

reactant | (3-methylpyridine-2-yl)methanol | 1.272 mmol, 157 mg | CC=1C(=NC=CC1)CO | C7H9NO
reactant | thionyl chloride | 200 μl | S(=O)(Cl)Cl | Cl2OS
reactant | N-cyclopropyl-3-[(4-hydroxybenzoyl)amino]-4-methylbenzamide | 0.636 mmol, 197 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)O)=O)=O | C18H18N2O3
reactant | potassium carbonate | 1.27 mmol, 176 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-cyclopropyl-4-methlyl-3-({4-[(3-methylpyridin-2-yl)methoxy]benzoyl}amino)benzamide | 270 mg | C1(CC1)NC(C1=CC(C(C=C1)=C)NC(C1=CC=C(C=C1)OCC1=NC=CC=C1C)=O)=O | C25H25N3O3
